US07097963B1
5-Bromo-4-hydroxy-6-methyl-1,3,3a,7-tetraazaindene—TAI-4
A suspension of 4-hydroxy-6-methyl-1,3,3a,7-tetraazaindene (15.0 g, 0.1 mol) in acetic acid (100 ml) was treated dropwise at 20° C. with a solution of bromine (16.172 g, 0.102 mol) in acetic acid (20 ml). As the reaction progressed, the suspended crystals dissolved and new crystals of brominated product were formed. After about 2 hours, the reaction mixture was poured into water (250 ml) and crystals were collected by filtration. The crude product was purified by first converting into its sodium salt by dissolving 22 g in one liter of hot aqueous 0.2N sodium carbonate and then slowly acidifying with dilute hydrochloric acid. The unchanged starting material was converted into a soluble salt by addition of excess of triethylamine. Crystals were then collected and recrystallized from hot water to give 19 g (82%) of Compound TAI-4 as white needles, m.p.=269° C.

reactant | 4-hydroxy-6-methyl-1,3,3a,7-tetraazaindene | 0.1 mol, 15.0 g | OC=1N2N=CN=C2N=C(C1)C | C6H6N4O
reactant | bromine | 0.102 mol, 16.172 g | BrBr | Br2
reactant | water | 250 ml | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 5-Bromo-4-hydroxy-6-methyl-1,3,3a,7-tetraazaindene | 19 g, 82% | BrC1=C(N2N=CN=C2N=C1C)O | C6H5BrN4O
